US04195012
Preparation of 2-chloro-1-methylaminoanthraquinone
A solution of 1-amino-2-chloroanthraquinone (2.6 grams; 0.01 mole) and methyl fluorosulfonate (1.254 grams; 0.011 mole) in toluene (50 mls) was refluxed for 22 hours and filtered while hot. The residue in the flask was combined with the filter cake and the combined solids were slurried in 5 N sodium hydroxide at 25° C. for 0.5 hour. The slurry was then filtered, and the solid was rinsed with water and dried. The yield of product obtained was 41% of theoretical.

reactant | 1-amino-2-chloroanthraquinone | 0.01 mole, 2.6 grams | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)Cl | C14H8ClNO2
reactant | methyl fluorosulfonate | 0.011 mole, 1.254 grams | FS(=O)(=O)OC | CH3FO3S
solvent | toluene | 50 mls | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-1-methylaminoanthraquinone | ClC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)NC | C15H10ClNO2
